US04571396
7-Chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid
A suspension of 0.19 g (0.72 mmole) of 1-cyclopropyl-6-fluoro-1,4-dihydro-7-hydroxy-4-oxo-1,8-naphthyridine-3-carboxylic acid in 2 ml of phosphorus oxychloride was heated at reflux for 1/2 hour. The resulting solution was cooled to room temperature and the solvent was removed in vacuo. The residue was triturated with ice-water and the resulting solid was removed by filtration, washed with water, then ether and dried in vacuo to give 0.11 g of the title compound, mp 209°-212° C.

reactant | 1-cyclopropyl-6-fluoro-1,4-dihydro-7-hydroxy-4-oxo-1,8-naphthyridine-3-carboxylic acid | 0.72 mmole, 0.19 g | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)O)F)=O)C(=O)O | C12H9FN2O4
reactant | phosphorus oxychloride | 2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-Chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 0.11 g | ClC1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F | C12H8ClFN2O3
